US09399646B2
Step 2: 2-Bromo-5-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
Bromine (0.3 mL) in HOAc (10 mL) was slowly added over 5 min to a mixture of 5-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine (1.0 g, 6.5 mmol) in acetic acid (10 mL) and water (10 mL) at 0° C. The resulting mixture was stirred at 0° C. for 1 h. Work-up: the reaction mixture was partitioned between ethyl acetate (300 mL) and water (200 mL). The organic layer was separated, washed with saturated aqueous NaHCO3 (300 mL) and brine (100 mL), dried over Na2SO4, and concentrated in vacuo. The residue was recrystallized from 1:4 EtOAc/petroleum ether (150 mL) to afford the title compound as white solid (660 mg, 43%). 1H NMR (DMSO-d6, 400 MHz): δ 6.91 (s, 1H), 3.33 (s, 2H), 2.73-2.71 (m, 2H), 2.52-2.51 (m, 2H), 2.33 (s, 3H). LCMS: 233 (M+H)+.

reactant | Bromine | 0.3 mL | BrBr | Br2
reactant | 5-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 6.5 mmol, 1.0 g | CN1CC2=C(CC1)SC=C2 | C8H11NS
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
product | 2-Bromo-5-methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 660 mg, 43% | BrC1=CC=2CN(CCC2S1)C | C8H10BrNS
